US06894046B2
A mixture of 2-chloropropanenitrile (0.2 mol) and 1,3-dichloro-5-nitrobenzene (0.2 mol) in DMSO (50 ml) was added dropwise at RT to a solution of NaOH (1 mol) in DMSO (150 ml) while the temperature was kept below 30° C. The mixture was stirred at RT for 1 hour, then poured out on ice and acidified with HCl. The precipitate was filtered off, washed with H2O and taken up in CH2Cl2. The organic solution was washed with H2O, dried, filtered and the solvent was evaporated. The residue was purified by column chromatography over silica gel (eluent: CH2Cl2/cyclohexane 70/30). The pure fractions were collected and the solvent was evaporated, yielding 19.5 g (40%) of (±)-2,6-dichloro-α-methyl-4-nitrobenzeneacetonitrile (interm. 1).

reactant | 2-chloropropanenitrile | 0.2 mol | ClC(C#N)C | C3H4ClN
reactant | 1,3-dichloro-5-nitrobenzene | 0.2 mol | ClC1=CC(=CC(=C1)[N+](=O)[O-])Cl | C6H3Cl2NO2
reactant | NaOH | 1 mol | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | DMSO | 50 ml | CS(=O)C | C2H6OS
solvent | DMSO | 150 ml | CS(=O)C | C2H6OS
product | (±)-2,6-dichloro-α-methyl-4-nitrobenzeneacetonitrile | 19.5 g, 40% | ClC1=C(C(=CC(=C1)[N+](=O)[O-])Cl)C(C#N)C | C9H6Cl2N2O2
